US06200957B1
Step 2F 1-(7-azabicyclo[2.2.1]hept-7-yl)-2-[2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-3-yl)butylamino]ethyl]-1H-indol-5-yl]-2-methylpropan-1-one dihydrochloride
A solution of 42.8 mg (0.0760 mmol) of 1-(7-azabicyclo[2.2.1]hept-7-yl)-2-[2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-3-yl)butylamino]ethyl]-1H-indol-5-yl]-2-methylpropan-1-one in 1.5 mL of methanol was treated with 0.152 mL (0.304 mmol) of 2 N hydrochloric acid. The solution was agitated and allowed to stand briefly before being filtered. The filtrate was evaporated to dryness under nitrogen, and the residue was triturated with diethyl ether. The resulting solid was collected on a filter, washed with additional ether, and dried to yield 46.5 mg (96%) of light golden-tan powder, mp>160° C. (gradual; preliminary softening). 500 MHz 1H NMR (DMSO-d6) was consistent with the assigned structure.

reactant | 1-(7-azabicyclo[2.2.1]hept-7-yl)-2-[2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-3-yl)butylamino]ethyl]-1H-indol-5-yl]-2-methylpropan-1-one | 0.0760 mmol, 42.8 mg | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)CCNCCCCC=2C=NC=CC2)=O | C37H46N4O
reactant | hydrochloric acid | 0.304 mmol, 2 N, 0.152 mL | Cl | ClH
solvent | methanol | 1.5 mL | CO | CH4O
product | 1-(7-azabicyclo[2.2.1]hept-7-yl)-2-[2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-3-yl)butylamino]ethyl]-1H-indol-5-yl]-2-methylpropan-1-one dihydrochloride | Cl.Cl.C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)CCNCCCCC=2C=NC=CC2)=O | InChI=1S/C37H46N4O.2ClH/c1-25-20-26(2)22-28(21-25)35-32(16-19-38-17-6-5-8-27-9-7-18-39-24-27)33-23-29(10-15-34(33)40-35)37(3,4)36(42)41-30-11-12-31(41)14-13-30;;/h7,9-10,15,18,20-24,30-31,38,40H,5-6,8,11-14,16-17,19H2,1-4H3;2*1H
